US06020379
A. 4-(5'-Fluoro-2'-Methyl-phenyl)pyridine
5-Fluorotoluidine (Example1,B), pyridine and pentyl nitrite are warmed until a vigorous reaction with evolution of gas sets in. This is allowed to proceed without heating until it has subsided (20 minutes) and the mixture is boiled under reflux for another 100 minutes. The excess pyridine is removed under reduced pressure to yield the title product.

reactant | 5-Fluorotoluidine | FC1=CC=C(C(N)=C1)C | C7H8FN
reactant | pentyl nitrite | N(=O)OCCCCC | C5H11NO2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-(5'-Fluoro-2'-Methyl-phenyl)pyridine | FC=1C=CC(=C(C1)C1=CC=NC=C1)C | C12H10FN
